US06165944
At room temperature, 3.11 g (10 mmol) of methyl 2-chloro-3-chloroformyl-4-methylsulfonylbenzoate in 50 ml of methylene chloride were added dropwise to 1.0 g (20 mmol) of hydrazine hydrate in 30 ml of methylene chloride. The reaction mixture was stirred at room temperature for 1 hour and then washed with water, dried and concentrated. 1.2 g (39% of theory) of methyl 2-chloro-3-hydrazinocarbonyl-4-methylsulfonylbenzoate were obtained.

reactant | methyl 2-chloro-3-chloroformyl-4-methylsulfonylbenzoate | 10 mmol, 3.11 g | ClC1=C(C(=O)OC)C=CC(=C1C(=O)Cl)S(=O)(=O)C | C10H8Cl2O5S
reactant | hydrazine hydrate | 20 mmol, 1.0 g | O.NN
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-chloro-3-hydrazinocarbonyl-4-methylsulfonylbenzoate | 1.2 g, 39% | ClC1=C(C(=O)OC)C=CC(=C1C(=O)NN)S(=O)(=O)C | C10H11ClN2O5S
